US04154838
N-Cyano-N'-methyl-N"-[2-((3-(4-benzyloxybutoxy)-2-pyridyl)methylthio)ethyl]guanidine which may be hydrogenolysed using palladium on charcoal catalyst to give N-cyano-N'-methyl-N"-[2-((3-(4-hydroxybutoxy)-2-pyridyl)methylthio)ethyl]guanidine

reactant | N-Cyano-N'-methyl-N"-[2-((3-(4-benzyloxybutoxy)-2-pyridyl)methylthio)ethyl]guanidine | C(#N)NC(=NCCSCC1=NC=CC=C1OCCCCOCC1=CC=CC=C1)NC | C22H29N5O2S
catalyst | palladium on charcoal | [Pd] | Pd
product | N-cyano-N'-methyl-N"-[2-((3-(4-hydroxybutoxy)-2-pyridyl)methylthio)ethyl]guanidine | C(#N)NC(=NCCSCC1=NC=CC=C1OCCCCO)NC | C15H23N5O2S
